US04500542
240 ml of acetic anhydride are added dropwise in the course of 20 minutes at room temperature, while stirring, to a mixture of 135.0 g (0.50 mole) of 1-(4,5-dimethoxy-2-methylphenyl)-2-phenyl-1-ethanone and 250 ml of bis-(di-methylamino)-methane, the temperature being held at 40° by cooling with an ice bath. The reaction mixture is stirred at 40° for a further hour and is then poured into a 2 kg mixture of ice and water, during which the crude product crystallises. After stirring for 15 minutes at 15° the crude product is filtered off, the filtered material is washed with cold water and then dried for 18 hours at 30° under approximately 100 mbar, yielding 1-(4,5-dimethoxy-2-methylphenyl)-2-phenyl-2-propen-1-one having a melting point of 57°-59°.

reactant | acetic anhydride | 240 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4,5-dimethoxy-2-methylphenyl)-2-phenyl-1-ethanone | 0.50 mole, 135.0 g | COC1=CC(=C(C=C1OC)C(CC1=CC=CC=C1)=O)C | C17H18O3
reactant | bis-(di-methylamino)-methane | 250 ml | CN(C)CN(C)C | C5H14N2
solvent | water | O | H2O
product | 1-(4,5-dimethoxy-2-methylphenyl)-2-phenyl-2-propen-1-one | COC1=CC(=C(C=C1OC)C(C(=C)C1=CC=CC=C1)=O)C | C18H18O3
